US08871753B2
Step C: N-{3-[2-(4-Aminopyridin-2-yl)ethyl]phenyl}-2-chloro-5-fluoropyrimidin-4-amine dihydrochloride
To a mixture of tert-butyl [2-(2-{3-[(2-chloro-5-fluoropyrimidin-4-yl)amino]phenyl}ethyl)pyridin-4-yl]carbamate (123 mg, 0.28 mmol) in 1,4-dioxane (0.51 mL) was added 4 M hydrogen chloride in 1,4-dioxane (1.21 mL). The resultant reaction mixture was stirred at rt for 1 hour. The reaction mixture was concentrated under vacuum to provide the desired product as an off-white powder (113 mg, 98%). LCMS for C17H16ClFN5 (M+H)+: m/z=344.0.

reactant | tert-butyl [2-(2-{3-[(2-chloro-5-fluoropyrimidin-4-yl)amino]phenyl}ethyl)pyridin-4-yl]carbamate | 0.28 mmol, 123 mg | ClC1=NC=C(C(=N1)NC=1C=C(C=CC1)CCC1=NC=CC(=C1)NC(OC(C)(C)C)=O)F | C22H23ClFN5O2
reactant | hydrogen chloride | 4 M | Cl | ClH
solvent | 1,4-dioxane | 0.51 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 1.21 mL | O1CCOCC1 | C4H8O2
product | N-{3-[2-(4-Aminopyridin-2-yl)ethyl]phenyl}-2-chloro-5-fluoropyrimidin-4-amine dihydrochloride | 113 mg, 98% | Cl.Cl.NC1=CC(=NC=C1)CCC=1C=C(C=CC1)NC1=NC(=NC=C1F)Cl | InChI=1S/C17H15ClFN5.2ClH/c18-17-22-10-15(19)16(24-17)23-14-3-1-2-11(8-14)4-5-13-9-12(20)6-7-21-13;;/h1-3,6-10H,4-5H2,(H2,20,21)(H,22,23,24);2*1H
